US06919331B2
To a cooled (0° C.) suspension of [1-(4-hydroxy-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (74 mg, 0.15 mmol) in DCM (3 mL) was added TFA (337 μL, 4.38 mmol). The solution was allowed to stir for 6 h at room temperature, followed by the removal of the volatiles in vacuo. The resulting trifluoroacetate was dissolved in methanol (3 mL) followed by the addition of acetyl cloride (104 μL, 1.46 mmol). After 10 minutes the solution was concentrated. This procedure was repeated allowing the reaction to run for 3 hrs. The solution was concentrated in vacuo and the residue stripped with methanol (twice) to yield 1-[5-Aminomethyl-1-(4-hydroxy-butyl)-1H-benzoimidazol-2-ylmethyl]-4-methoxy-1H-quinolin-2-one; HCl salt (65 mg, 100%) as an off white solid:

reactant | [1-(4-hydroxy-butyl)-2-(4-methoxy-2-oxo-2H-quinolin-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.15 mmol, 74 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(C=C(C3=CC=CC=C23)OC)=O)CCCCO)C=C1)=O | C28H34N4O5
reactant | TFA | 4.38 mmol, 337 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetyl cloride | 1.46 mmol, 104 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-Aminomethyl-1-(4-hydroxy-butyl)-1H-benzoimidazol-2-ylmethyl]-4-methoxy-1H-quinolin-2-one | NCC1=CC2=C(N(C(=N2)CN2C(C=C(C3=CC=CC=C23)OC)=O)CCCCO)C=C1 | C23H26N4O3
